* R2-A frozen R1 differential receiver; mutual coupling K=0.90 (M=0.5692099 pH).
* Root cause addressed: a parallel zero-voltage L_SEC branch diverted the
* independent bias current before it reached B_OUT.  R_SEC_LOAD is now the
* return in series with L_SEC; the B_OUT branch remains N_SEC -> ground.
.subckt SERIES_PICKUP_DIFF_SERIES_RETURN IN

* Canonical SL -> R_IN -> L_TX -> B_TRIG front end, unchanged.
R_IN          IN          N_PICK      12.0
L_TX          N_PICK      N_TRIG       0.20p
B_TRIG        N_TRIG      0            jjmit area=0.50
I_TRIG_BIAS   0           N_TRIG       pwl(0p 0 2p 15U 80p 15U 140p 15U 170p 15U)

* R1a L_SEC/K values retained; R_SEC_LOAD is the explicit return path.
L_SEC         N_SEC       N_SEC_RTN     2.0p
R_SEC_LOAD    N_SEC_RTN   0            12.0
K_TX          L_TX        L_SEC        0.90

* True differential output node: B_OUT is directly referenced to ground.
* Currents i_LSEC and i_BOUT are positive N_SEC -> ground direction.
* KCL at N_SEC is:
*   i_BOUT = I_BIAS - i_LSEC - i_RDAMP
* The series R_SEC_LOAD return prevents L_SEC from being a zero-voltage
* parallel DC return for I_BIAS, while its transient current still enters
* the same N_SEC node and directly modulates B_OUT.
B_OUT         N_SEC       0             jjmit area=0.10
I_OUT_BIAS    0           N_SEC         pwl(0p 0 2p 7U 80p 7U 140p 7U 170p 7U)
R_OUT_DAMP    N_SEC       0            100.0

.ends SERIES_PICKUP_DIFF_SERIES_RETURN
